US04397868
A solution of 4.89 g. of phenylisocyanate in 100 ml. of hexane was added to a solution of 4.41 g. of N-benzyl-n-butylamine in 150 ml. of hexane and the solution was stirred at room temperature for 2 hours and then evaporated. The residual solid was recrystallized from pentane to yield 1-benzyl-1-(n-butyl)-3-(phenyl)urea.

reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N-benzyl-n-butylamine | C(C1=CC=CC=C1)NCCCC | C11H17N
solvent | hexane | CCCCCC | C6H14
product | 1-benzyl-1-(n-butyl)-3-(phenyl)urea | C(C1=CC=CC=C1)N(C(=O)NC1=CC=CC=C1)CCCC | C18H22N2O
